US07399759B2
2-{6-[(4-methylphenyl)thio]-2-pyridyl}-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.37 g, 2.2 mmol), 2-cyano-6-(4-methylphenyl)thiopyridine (0.50 g, 2.2 mmol), triethylamine (0.46 ml, 3.3 mmol) and toluene (30 ml) was refluxed for 48 hrs as described in Example 1. The solvent was concentrated under reduced pressure. The residue was recrystallized from ethanol to give the titled compound (0.10 g, 13%) as crystals.

reactant | methyl thiosalicylate | 2.2 mmol, 0.37 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-6-(4-methylphenyl)thiopyridine | 2.2 mmol, 0.50 g | C(#N)C1=NC(=CC=C1)SC1=CC=C(C=C1)C | C13H10N2S
reactant | triethylamine | 3.3 mmol, 0.46 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{6-[(4-methylphenyl)thio]-2-pyridyl}-4H-1,3-benzothiazine-4-one | 0.10 g, 13% | CC1=CC=C(C=C1)SC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C20H14N2OS2
